US07994185B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-4-morpholinesulfonamide
To a solution of 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline (1.5 g, 4.5 mmol) in pyridine (15 mL) was added morpholine-4-sulfonyl chloride (1.26 g, 6.8 mmol). The reaction was stirred at rt for 12 h. Then the reaction was washed with water (50 mL), and extracted with DCM (2×50 mL). The organic layer was washed with brine, dried over anhydrous NaSO4, filtrated and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (DCM:EtOAc 60:1) to afford the title compound of Step A (297 mg, 13.8% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.30 (d, J=5.3 Hz, 1H), 7.27-7.36 (m, 2H), 7.21-7.26 (m, 2H), 6.98 (d, J=5.3 Hz, 1H), 3.58-3.64 (m, 4H), 3.22-3.33 (m, 1H), 3.14-3.21 (m, 4H), 1.40 (d, J=7.0 Hz, 6H). MS (ES+): 480 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline | 4.5 mmol, 1.5 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(N)C=CC1 | C16H15ClN4S
reactant | morpholine-4-sulfonyl chloride | 6.8 mmol, 1.26 g | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-4-morpholinesulfonamide | 297 mg, 13.8% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)N1CCOCC1 | C20H22ClN5O3S2
